US04767743
E5. 3-(R)-methyl-5-(t-butyldimethylsilyloxy)-1-pentanal
To 56.3 g. of oxalyl chloride in 300 ml. of dry methylene chloride cooled to -60° C. and under a nitrogen atmosphere was added dropwise 74.81 g. of dimethylsulfoxide in 100 ml. of dry methylene chloride. After 15 minutes 92.0 g. of 3-(S)-methyl-5-(t-butyldimethylsilyloxy)-1-pentanol in 250 ml. of the same solvent was added dropwise. After 30 minutes 206.1 g. of triethylamine was added to -60° C. followed by the removal of the cooling bath. The reaction was stirred at room temperature for 1.5 hours, and was then poured into water and extracted with methylene chloride. The extracts were washed with 2.5% hydrochloric, a saturated sodium bicarbonate solution, water and a brine solution, and then dried over magnesium sulfate. The solvent was removed and the residue dissolved in ether and rewashed and dried as before. Removal of the ether gave 90.9 g. of the desired product.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 3-(S)-methyl-5-(t-butyldimethylsilyloxy)-1-pentanol | C[C@@H](CCO)CCO[Si](C)(C)C(C)(C)C | C12H28O2Si
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(R)-methyl-5-(t-butyldimethylsilyloxy)-1-pentanal | C[C@@H](CC=O)CCO[Si](C)(C)C(C)(C)C | C12H26O2Si
